US05352684
B. 5-Acetyl-1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)-3-[5-(4,4-diphenyl-1-piperidinyl)pentanoyl]-pyridine hydrochloride
5.5 g (14 mmol) 5-acetyl-1,4-dihydro-2,6-dimethyl-3-(5-chloropentanoyl)-4-(3-nitrophenyl)-pyridine and 4.2 g (28 mmol) sodium iodide are boiled under reflux in 200 ml anhydrous acetone for 24 h. The mixture is filtered and concentrated. The residue is boiled under reflux together with 8 g (28 mmol) 4,4-diphenylpiperidine hydrochloride and 8 g (58 mmol) potassium carbonate in 100 ml dioxane for 24 h. The mixture is filtered and concentrated, and the residue is chromatographed over silica gel with toluene/acetone=2/8. The product thus obtained is taken up in 120 ml isopropanol and the mixture is diluted with 150 ml diethyl ether. The title compound is precipitated by addition of ethereal hydrochloric acid . Yield: 4.75 g (54%). M.p.: 164°-167° C. (acetonitrile).

reactant | 5-acetyl-1,4-dihydro-2,6-dimethyl-3-(5-chloropentanoyl)-4-(3-nitrophenyl)-pyridine | 14 mmol, 5.5 g | C(C)(=O)C=1C(C(=C(NC1C)C)C(CCCCCl)=O)C1=CC(=CC=C1)[N+](=O)[O-] | C20H23ClN2O4
reactant | sodium iodide | 28 mmol, 4.2 g | [I-].[Na+]
reactant | 4,4-diphenylpiperidine hydrochloride | 28 mmol, 8 g | Cl.C1(=CC=CC=C1)C1(CCNCC1)C1=CC=CC=C1
reactant | potassium carbonate | 58 mmol, 8 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 200 ml | CC(=O)C | C3H6O
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | isopropanol | 120 ml | C(C)(C)O | C3H8O
solvent | diethyl ether | 150 ml | C(C)OCC | C4H10O
product | 5-Acetyl-1,4-dihydro-2,6-dimethyl-4-(3-nitrophenyl)-3-[5-(4,4-diphenyl-1-piperidinyl)pentanoyl]-pyridine hydrochloride | Cl.C(C)(=O)C=1C(C(=C(NC1C)C)C(CCCCN1CCC(CC1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C1=CC(=CC=C1)[N+](=O)[O-] | InChI=1S/C37H41N3O4.ClH/c1-26-34(28(3)41)36(29-13-12-18-32(25-29)40(43)44)35(27(2)38-26)33(42)19-10-11-22-39-23-20-37(21-24-39,30-14-6-4-7-15-30)31-16-8-5-9-17-31;/h4-9,12-18,25,36,38H,10-11,19-24H2,1-3H3;1H
